US06498256B2
a) Preparation of 2-tert-butyl4-carboxymethyl-oxazoline (A4a)
3 g (29.6 mmol) of pivalic acid amide are stirred with 5.6 g (29.6 mmol) of triethyloxonium tetrafluoroborate in 50 ml of dichloromethane for 48 h. Ammonia is passed through the solution over a period of 3 h, the resulting residue is filtered off and the filtrate is concentrated in a rotary evaporator. 4.67 g (30 mmol) of L-serine methyl ester hydrochloride are added with 50 ml of dichloroethane, and the mixture is then heated at reflux for 8 h. Extraction with NaHCO3 solution and NH4Cl solution, drying over MgSO4 and purification by column chromatography (15×3 cm, pentane/diethyl ether 4:1) are carried out. Yield 1.34 g (24% of theory).

reactant | pivalic acid amide | 29.6 mmol, 3 g | C(C(C)(C)C)(=O)N | C5H11NO
reactant | triethyloxonium tetrafluoroborate | 29.6 mmol, 5.6 g | F[B-](F)(F)F.C(C)[O+](CC)CC
reactant | Ammonia | N | H3N
reactant | L-serine methyl ester hydrochloride | 30 mmol, 4.67 g | Cl.COC([C@@H](N)CO)=O
reactant | dichloroethane | 50 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-tert-butyl4-carboxymethyl-oxazoline | C(C)(C)(C)C=1OCC(N1)CC(=O)O | C9H15NO3
